US04413006
2 g of 1-[3-(4- acetamido-2- methoxyphenoxy)-n-propyl]-4-phenyl-piperazine, 232 mg of 65% sodium hydride, 940 mg of 3-methyl-2- butenyl bromide and 60 ml of anhydrous dimethylformamide are treated in the same manner as described in Example 13. 1.78 g of 1-{3-[4-(N-acetyl-N-(3-methyl-2-butenyl)-amino)-2-methoxyphenoxy]-n-propyl}-4-phenyl-piperazine are thereby obtained as a pale yellow oil. Yield: 86.3%

reactant | 1-[3-(4- acetamido-2- methoxyphenoxy)-n-propyl]-4-phenyl-piperazine | 2 g | C(C)(=O)NC1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C22H29N3O3
reactant | sodium hydride | 232 mg | [H-].[Na+]
reactant | 3-methyl-2- butenyl bromide | 940 mg | CC(=CCBr)C | C5H9Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-{3-[4-(N-acetyl-N-(3-methyl-2-butenyl)-amino)-2-methoxyphenoxy]-n-propyl}-4-phenyl-piperazine | 1.78 g, Yield: 86.3% | C(C)(=O)N(CC=C(C)C)C1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C27H37N3O3
